US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (30.0 g) obtained from Referential Example 7 was dissolved in methylene chloride (300 ml), pivaloyl chloride (15.0 g) and pyridine (9.8 g) were added thereto, the mixture was refluxed for 2 hours and 30 minutes. The reaction mixture was allowed to cool, Water was added, and extracted with chloroform. The organic layer was successively washed with saturated aqueous sodium bicarbonate, water, and saturated brine, dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, to thereby obtain the 21.5 g of titled compound as white crystals.

reactant | 2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 30.0 g | O=C1C(CNC2=C(N1)C=C(C=C2)C)NC(=O)OC(C)(C)C | C15H21N3O3
reactant | pivaloyl chloride | 15.0 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | pyridine | 9.8 g | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 21.5 g | O=C1C(CN(C2=C(N1)C=C(C=C2)C)C(C(C)(C)C)=O)NC(=O)OC(C)(C)C | C20H29N3O4
